US03937801
trans-2-(4-Cyclohexyl-3-hydroxy-1-butenyl)-5-oxocyclopentaneheptanoic Acid
To a solution of trans-2-(4-cyclohexyl-3-hydroxy-1-butenyl)-5-oxocyclopentaneheptanoic acid methyl ester, Isomer A (11.56 g), described in Example 10, in 53 ml of methanol is added 10% NaOH (18.3 ml). The mixture is stirred at room temperature for 2 hr then rendered acidic with 10% HCl and diluted with ether. The ether solution is washed with water, dried and evaporated to yield Isomer A of the title compound, νmaxCHCl3 1730, 1710 cm-1.

reactant | trans-2-(4-cyclohexyl-3-hydroxy-1-butenyl)-5-oxocyclopentaneheptanoic acid methyl ester | COC(CCCCCC[C@H]1[C@@H](CCC1=O)C=CC(CC1CCCCC1)O)=O | C23H38O4
reactant | NaOH | 18.3 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 53 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | trans-2-(4-Cyclohexyl-3-hydroxy-1-butenyl)-5-oxocyclopentaneheptanoic Acid | C1(CCCCC1)CC(C=C[C@H]1[C@@H](C(CC1)=O)CCCCCCC(=O)O)O | C22H36O4
